US09376418B2
A solution of 2-chloro-5-fluoro-4-methoxypyrimidine (0.32 g, 1.97 mmol) and 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (0.40 g, 1.72 mmol) in dioxane (17 mL) and methanesulfonic acid (0.13 mL, 1.97 mmol) was heated to 100° C. overnight. The reaction was then cooled to room temperature, diluted with ethyl acetate, washed with water, dried over magnesium sulfate, filtered and concentrated in reduced pressure. The residue was purified by chromatography on silica gel to afford 5-fluoro-4-methoxy-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine. MS ESI calc'd for C18H24BFN3O3 [M+H]+ 360. found 360. 1H NMR (500 MHz, DMSO-d6) δ 9.51 (s, 1H), 8.27 (d, J=3.2, 1H), 8.00 (s, 1H), 7.57 (s, 1H), 7.07 (s, 1H), 4.01 (s, 3H), 2.25 (s, 3H), 1.26 (s, 12H).

reactant | 2-chloro-5-fluoro-4-methoxypyrimidine | 1.97 mmol, 0.32 g | ClC1=NC=C(C(=N1)OC)F | C5H4ClFN2O
reactant | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.72 mmol, 0.40 g | CC=1C=C(N)C=C(C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
reactant | methanesulfonic acid | 1.97 mmol, 0.13 mL | CS(=O)(=O)O | CH4O3S
solvent | dioxane | 17 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-4-methoxy-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine | FC=1C(=NC(=NC1)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)OC | C18H23BFN3O3
